US05710169
N-[2-(3,4-Dichlorophenyl)-2-pyrrolidin-1-ylethyl]benzamide hydrochloride salt
2-(Pyrrolidin-1-yl)-2-(3,4-dichlorophenyl)ethylamine. A slurry of α-Pyrrolidin-1-yl-3,4-dichlorobenzyl cyanide hydrochloride salt (4.73 g) in tetrahydrofuran (100 mL) was added to a slurry of lithium aluminum hydride (3.23 g) in tetrahydrofuran (35 mL) while maintaining a reflux. The reaction was allowed to reflux 18 hours. The reaction was cooled in an ice bath and treated with aqueous sodium sulfate. The reaction was filtered and evaporated to give a reddish-brown oil. The oil was dissolved in diethylether, treated with hydrochloric acid (g)/diethylether, and evaporated to a red oil which was used directly in subsequent reactions.

reactant | 2-(Pyrrolidin-1-yl)-2-(3,4-dichlorophenyl)ethylamine | N1(CCCC1)C(CN)C1=CC(=C(C=C1)Cl)Cl | C12H16Cl2N2
reactant | α-Pyrrolidin-1-yl-3,4-dichlorobenzyl cyanide hydrochloride salt | 4.73 g | Cl.N1(CCCC1)C(C1=CC(=C(C=C1)Cl)Cl)C#N
reactant | lithium aluminum hydride | 3.23 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
solvent | diethylether | C(C)OCC | C4H10O
product | N-[2-(3,4-Dichlorophenyl)-2-pyrrolidin-1-ylethyl]benzamide hydrochloride salt | Cl.ClC=1C=C(C=CC1Cl)C(CNC(C1=CC=CC=C1)=O)N1CCCC1 | InChI=1S/C19H20Cl2N2O.ClH/c20-16-9-8-15(12-17(16)21)18(23-10-4-5-11-23)13-22-19(24)14-6-2-1-3-7-14;/h1-3,6-9,12,18H,4-5,10-11,13H2,(H,22,24);1H
